US06610707B1
(Z)-(2S)-1-[(4-Fluorophenyl)sulfonyl]-N′2-hydroxy-2-pyrrolidinecarboximidamide
The title compound was prepared by the method of Preparation 4 from (2S)-1-[(4-fluorophenyl)sulfonyl]-2-pyrrolidinecarbonitrile [see Preparation 51] and hydroxylamine hydrochloride to afford the title compound as a white solid.

reactant | (2S)-1-[(4-fluorophenyl)sulfonyl]-2-pyrrolidinecarbonitrile | FC1=CC=C(C=C1)S(=O)(=O)N1[C@@H](CCC1)C#N | C11H11FN2O2S
reactant | hydroxylamine hydrochloride | Cl.NO
product | (Z)-(2S)-1-[(4-Fluorophenyl)sulfonyl]-N′2-hydroxy-2-pyrrolidinecarboximidamide | FC1=CC=C(C=C1)S(=O)(=O)N1[C@@H](CCC1)/C(/N)=N/O | C11H14FN3O3S
